US04749705
(3) 2-Chloro-4-amino-6,7-dimethoxy quinazoline
8.6 g of 2.4-Dichloro-6,7-dimethoxy quinazoline was dissolved in 300 ml of tetrahydrofuran and NH3 -gas was introduced to the solution. After saturated with NH3 -gas, the reaction mixture was allow to stand for 2 days and the solvent was removed. The resulting precipitate was collected by filtration and recrystallized from methanol. 2.8 g of desired compound was obtained. m.p. 248° C. (decomp.)

reactant | 2.4-Dichloro-6,7-dimethoxy quinazoline | 8.6 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | NH3 | N | H3N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-Chloro-4-amino-6,7-dimethoxy quinazoline | 2.8 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
